US04670421
In the manner of example 3, 11-(trimethylsilyl)undecyl bromide was reacted with ethyl 4-aminobenzoate to yield ethyl 4-[11-(trimethylsilyl)undecylamino]benzoate, m.p. 66°-68° C.

reactant | 11-(trimethylsilyl)undecyl bromide | C[Si](CCCCCCCCCCCBr)(C)C | C14H31BrSi
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | ethyl 4-[11-(trimethylsilyl)undecylamino]benzoate | C[Si](CCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)(C)C | C23H41NO2Si
